US04762829
N-(3,7,11,15-Tetramethyl-2,6,10,14-hexadecatetraenoyl)-ethanolamine
6.1 g of 3,7,11,15-tetramethyl-2,6,10,14-hexadecatetraenoic acid was dissolved in 50 ml of tetrahydrofuran and 3.1 ml of triethylamine was added thereto. While cooling the mixture in ice with stirring, 2.1 ml of ethyl chlorocarbonate was added dropwise. Then the mixture was stirred for 15 minutes and 1.8 ml of ethanolamine was added thereto. After the mixture was stirred for 30 minutes at room temperature, water was added thereto and the resulting aqueous solution was extracted with ethyl acetate. The ethyl acetate layer was separated from the aqueous layer, washed with 5% aqueous hydrochloric acid solution and then water, and dried over magnesium sulfate. The solvent was distilled off. The resulting reaction mixture was subjected to chromatography on a silica gel column to afford 6.5 g (yield 94%) of the title compound as a colorless oil.

reactant | 3,7,11,15-tetramethyl-2,6,10,14-hexadecatetraenoic acid | 6.1 g | CC(=CC(=O)O)CCC=C(CCC=C(CCC=C(C)C)C)C | C20H32O2
reactant | triethylamine | 3.1 ml | C(C)N(CC)CC | C6H15N
reactant | ethyl chlorocarbonate | 2.1 ml | C(OCC)(=O)Cl | C3H5ClO2
reactant | ethanolamine | 1.8 ml | C(O)CN | C2H7NO
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
solvent | water | O | H2O
product | N-(3,7,11,15-Tetramethyl-2,6,10,14-hexadecatetraenoyl)-ethanolamine | 6.5 g, yield 94% | CC(=CC(=O)NCCO)CCC=C(CCC=C(CCC=C(C)C)C)C | C22H37NO2
